* eeschema netlist version 1.1 (spice format) creation date: thursday 25 april 2013 02:05:01 pm ist
.include npn.lib

* Plotting option vplot8_1
V_u1 7 1 0
v1  1 0 5v
r1  1 1 2200
r2  3 4 1k
V_u3 4 2 0
v2  3 0 10v
V_u4 5 0 0
q1 2 7 5 npn

.dc  v1 0e-00 5e-00 5e-00

* Control Statements 
.control
run
plot v(7) v(2) v(5) 
plot i(V_u1)
plot i(V_u3)
plot i(V_u4)
.endc
.end
